US09302989B2
N-(4-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)phenyl)acetamide
To a 5 mL microwave tube was added N-(3-(4-bromophenyl)oxetan-3-yl)-2-methylpropane-2-sulfinamide (436 mg, 1.312 mmol), cesium carbonate (1283 mg, 3.94 mmol), and acetamide (116 mg, 1.968 mmol) in dioxane (6.5 ml). Xantphos (76 mg, 0.131 mmol) and tris(dibenzylideneacetone)dipalladium(O) (60.1 mg, 0.066 mmol) were added; the tube was flushed with nitrogen and capped. The mixture was heated at 100° C. for 45 minutes. Aqueous work up with dichloromethane extraction gave an organic layer that was dried with sodium sulfate, filtered and concentrated under vacuum. Regular phase chromatography provided the title compound.

reactant | N-(3-(4-bromophenyl)oxetan-3-yl)-2-methylpropane-2-sulfinamide | 1.312 mmol, 436 mg | BrC1=CC=C(C=C1)C1(COC1)NS(=O)C(C)(C)C | C13H18BrNO2S
reactant | cesium carbonate | 3.94 mmol, 1283 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetamide | 1.968 mmol, 116 mg | C(C)(=O)N | C2H5NO
reactant | Xantphos | 0.131 mmol, 76 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 6.5 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(O) | 0.066 mmol, 60.1 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(4-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)phenyl)acetamide | CC(C)(S(=O)NC1(COC1)C1=CC=C(C=C1)NC(C)=O)C | C15H22N2O3S
